US06972292B2
(2Z,7Z,10S,11R,12S,13S,14S,15Z)-13-[(aminocarbonyl)oxy]-5,11dihydroxy-N,4,6,8,10,12,14-heptamethyl-N-phenyl 2,7,15,17-octadecatetraenamide.
To a solution of (2Z,4S,5S,6S,7Z,10S,11R,12R,13S,14S,15Z)-13-[(aminocarbonyl)oxy]-5,11-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-N,4,6,8,10,12,14-heptamethyl-N-phenyl-2,7,15,17-octadecatetraenamide (70 mg, 0.091 mmol, 1 eq) in MeOH (10 mL) is added a MeOH solution of HCl (15.5 mL, 15 mL MeOH+0.5 mL 12N HCl). The resulting solution is stirred at 23° C. (36 hours). The pH is adjusted to 8 by the addition of solid NaHCO3 at 0° C. The solution was dried in vacuo, the residue was dissolved in CH2Cl2 (10 mL) and filter through Celite. HPLC purification provided the desired compound (15.5 mg, 32%) as a white solid: [α]25D=+225.738° (c 0.25, CH2Cl2); HRMS ESI m/z 541.3588 (M+H+, C32H50O5N2 requires 541.3641).

reactant | (2Z,4S,5S,6S,7Z,10S,11R,12R,13S,14S,15Z)-13-[(aminocarbonyl)oxy]-5,11-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-N,4,6,8,10,12,14-heptamethyl-N-phenyl-2,7,15,17-octadecatetraenamide | 0.091 mmol, 70 mg, 1 eq | NC(=O)O[C@H]([C@H]([C@@H]([C@H](C\C(=C/[C@@H]([C@H]([C@H](\C=C/C(=O)N(C1=CC=CC=C1)C)C)O[Si](C)(C)C(C)(C)C)C)\C)C)O[Si](C)(C)C(C)(C)C)C)[C@H](\C=C/C=C)C | C44H76N2O5Si2
reactant | HCl | 12N, 15.5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | (2Z,7Z,10S,11R,12S,13S,14S,15Z)-13-[(aminocarbonyl)oxy]-5,11dihydroxy-N,4,6,8,10,12,14-heptamethyl-N-phenyl 2,7,15,17-octadecatetraenamide | 15.5 mg, 32% | NC(=O)O[C@H]([C@H]([C@@H]([C@H](C\C(=C/C(C(C(\C=C/C(=O)N(C1=CC=CC=C1)C)C)O)C)\C)C)O)C)[C@H](\C=C/C=C)C | C32H48N2O5
